US08426411B2
To a solution of 3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine (0.27 g, 0.7 mmol) and DIEA (0.18 mL, 1.05 mmol) in DCM (5 mL) was added cyclopropanesulfonyl chloride (0.098 g, 0.7 mmol) drop-wise. The resulting mixture was stirred at ambient temperature for about 1 h. Another 0.18 mL of DIEA and 0.098 g of cyclopropanesulfonyl chloride were added and the reaction was continued for about 3 h. The solvent was removed and the residue was partitioned between saturated aqueous ammonium chloride and EtOAc (20 mL each). The organic layer was washed with brine (10 mL), dried over anhydrous MgSO4, filtered and concd. The residue was purified by silica gel chromatography (100% DCM for 5 min, then to 6% MeOH in DCM over next 30 min) to yield N-(3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentyl)cyclopropanesulfonamide (0.18 g, 52% yield) as an off-white solid. LC/MS (Table 1, Method a) Rt=2.45 min; MS m/z 490 (M+H)+.

reactant | 3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine | 0.7 mmol, 0.27 g | CC1CC(CC1C1=CN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)N | C20H31N5OSi
reactant | DIEA | 1.05 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropanesulfonyl chloride | 0.7 mmol, 0.098 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | DIEA | 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropanesulfonyl chloride | 0.098 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | MeOH | CO | CH4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentyl)cyclopropanesulfonamide | 0.18 g, 52% yield | CC1CC(CC1C1=CN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)NS(=O)(=O)C1CC1 | C23H35N5O3SSi
